US05407961
A mixture of 129 g of 2-chloro-1,3-dimethyl-5-nitrobenzene, 125 g of 1-bromo-2,5-pyrrolidinedione, 12 g of dibenzoyl peroxide and 1200 ml of tetrachloromethane was stirred for 2 hours at reflux temperature using a water separator. Twice there was added an extra portion of 20 g of dibenzoyl peroxide during a refiuxing period of 29 hours. After cooling, the reaction mixture was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /hexane 50:50). The eluent of the desired fraction was evaporated, yielding 130 g (70.2%) of 1-(bromomethyl)-2-chloro-3-methyl-5-nitrobenzene (interre. 5).

reactant | 2-chloro-1,3-dimethyl-5-nitrobenzene | 129 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | 1-bromo-2,5-pyrrolidinedione | 125 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 12 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | tetrachloromethane | 1200 ml | ClC(Cl)(Cl)Cl | CCl4
reactant | dibenzoyl peroxide | 20 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | water | O | H2O
product | 1-(bromomethyl)-2-chloro-3-methyl-5-nitrobenzene | 130 g, 70.2% | BrCC1=C(C(=CC(=C1)[N+](=O)[O-])C)Cl | C8H7BrClNO2
